US04109088
In 50 ml. of xylene was dissolved 1.5 g. of 2-(1-hydroxy-3-methyl-1-phenyl-5-indanyloxymethyl)-4-isopropylmorpholine and after adding to the solution 5 mg. of p-toluenesulfonic acid, the mixture was refluxed for 3 hours. Then, xylene was distilled off and the residue formed was adsorbed on a silica gel column prepared from 100 ml. of silica gel in chloroform and eluted with ethyl acetate. After removing the first 10 ml. of the ethyl acetate eluate emerging from the column, 200 ml. of the subsequent ethyl acetate eluate was collected and dried to provide 0.9 g. (yield 62.7%) of 4-isopropyl-2-(1-methyl-3-phenyl-6-indenyloxymethyl)morpholine. The citrate of the product had a melting point of 111°-112.5° C.

reactant | 2-(1-hydroxy-3-methyl-1-phenyl-5-indanyloxymethyl)-4-isopropylmorpholine | OC(C1=CC=CC=C1)(C1CN(CCO1)C(C)C)OC=1C=C2C(CCC2=CC1)C | C24H31NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-isopropyl-2-(1-methyl-3-phenyl-6-indenyloxymethyl)morpholine | yield 62.7% | C(C)(C)N1CC(OCC1)C(C)OC1=CC=C2C(=CCC2=C1)C1=CC=CC=C1 | C24H29NO2
